US07163937B2
A solution of benzyl (S)-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (267 mg) in MeOH (15 mL) was charged with 10% Pd/C, Degussa (˜100 mg). The reaction flask was evacuated and then back-filled with hydrogen; this was repeated two more times. The reaction was stirred under 60 psi of H2 for 4 h and then filtered and concentrated in vacuo to afford the desired (S)-3-amino-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one (190 mg) as an oil.

reactant | benzyl (S)-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 267 mg | OC(CC)[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C25H39N3O4
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (S)-3-amino-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one | 190 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C(CC)O)=O | C17H33N3O2
